US07411072B2
Butane-1-sulfonic acid [3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide
Following procedures essentially as described in Example 90, 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine (50 mg, 0.168 mmol) and 1-butanesulfonyl chloride (158 mg, 1.01 mmol) affords 41 mg (58%) of the title compound as a colorless oil. MS (ES) 440 (M+Na); HPLC shows 99% purity.

reactant | 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | 0.168 mmol, 50 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)N | C22H19N
reactant | 1-butanesulfonyl chloride | 1.01 mmol, 158 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
product | Butane-1-sulfonic acid [3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide | 41 mg, 58% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)CCCC | C26H27NO2S
